US06388061B1
Preparation of N-benzyloxycarbonylallylamine (Compound 4)
10.4 ml of allylamine and 19 ml of triethylamine are dissolved in 50 ml of absolute toluene. A 50% solution of benzyl chloroformate in toluene (46.8 ml) is added dropwise to the solution, which has been cooled in an icebath, while stirring. The mixture is stirred at room temperature for a further 1 hour in order to complete the reaction. A precipitate which has formed is filtered off. After that, the filtrate is concentrated and dried to constant weight under high vacuum (70° C., 0.5 mbar).

reactant | allylamine | 10.4 ml | C(C=C)N | C3H7N
reactant | triethylamine | 19 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 46.8 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyloxycarbonylallylamine | C(C1=CC=CC=C1)OC(=O)C=CCN | C11H13NO2
